US08008307B2
Step b: N-[(1S)2,3-dihydro-1H-inden-1-yl]-6-methylpyrimidine-4-amine
2-Chloro-N-[(1S)-2,3-dihydro-1H-inden-1-yl]-6-methylpyrimidine-4-amine (1.95 g, 7.5 mmol) was dissolved in ethanol (5 mL) and 10% Pd/C (0.140 g, 0.13 mmol) was added. The flask was filled with hydrogen and stirred overnight. At that time, TLC indicated complete conversion. Palladium was filtered off and the solvent was removed in vacuo. The residue was purified using chromatography on silica gel using gradient 50 to 100% ethyl acetate in hexane to afford the title compound (1.65 g, 93%). LC/MS: Rt=1.51 min, ES+ 226 (AA standard).

reactant | 2-Chloro-N-[(1S)-2,3-dihydro-1H-inden-1-yl]-6-methylpyrimidine-4-amine | 7.5 mmol, 1.95 g | ClC1=NC(=CC(=N1)N[C@H]1CCC2=CC=CC=C12)C | C14H14ClN3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.13 mmol, 0.140 g | [Pd] | Pd
product | N-[(1S)2,3-dihydro-1H-inden-1-yl]-6-methylpyrimidine-4-amine | 1.65 g, 93% | [C@@H]1(CCC2=CC=CC=C12)NC1=NC=NC(=C1)C | C14H15N3
